US06884821B1
1.0 g of ethyl 3-(2-cyano-4-pyridyl)-2-isopropoxypropanoate was dissolved in 70 mL ethanol, and 1.9 mL conc. hydrochloric acid and 0.9 g of 10% palladium-carbon were added thereto, and the mixture was stirred at room temperature for 2 hours in a hydrogen atmosphere. After the catalyst was filtered off and the solvent was evaporated, the reaction product was subjected to azeotropic distillation with ethyl acetate and toluene, to give 1.21 g of ethyl 3-[2-(aminomethyl)-4-pyridyl]-2-isopropoxypropanoate hydrochloride was obtained as a crude product.

reactant | ethyl 3-(2-cyano-4-pyridyl)-2-isopropoxypropanoate | 1.0 g | C(#N)C1=NC=CC(=C1)CC(C(=O)OCC)OC(C)C | C14H18N2O3
reactant | hydrochloric acid | 1.9 mL | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 70 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 0.9 g | [C].[Pd]
product | ethyl 3-[2-(aminomethyl)-4-pyridyl]-2-isopropoxypropanoate hydrochloride | 1.21 g | Cl.NCC1=NC=CC(=C1)CC(C(=O)OCC)OC(C)C | InChI=1S/C14H22N2O3.ClH/c1-4-18-14(17)13(19-10(2)3)8-11-5-6-16-12(7-11)9-15;/h5-7,10,13H,4,8-9,15H2,1-3H3;1H
